US06617346B1
Hydrogen chloride gas was passed through a solution of chroman-8-carbonitrile (370 mg, 1.736 mmol) in anhydrous ethanol (15 mL) at 0° C. After 1 h, hydrogen chloride gas was stopped and the reaction vessel was sealed with a stopper. After stirring at room temperature for 1 d, the reaction vessel was cooled to 0° C. and the stopper was removed. The solvent was evaporated in vacuo to afford chroman-8-carboximidic acid ethyl ester hydrochloride (491 mg, 88%). It was used without further purification.

reactant | Hydrogen chloride | Cl | ClH
reactant | chroman-8-carbonitrile | 1.736 mmol, 370 mg | O1CCCC2=CC=CC(=C12)C#N | C10H9NO
reactant | ethanol | 15 mL | C(C)O | C2H6O
product | chroman-8-carboximidic acid ethyl ester hydrochloride | 491 mg, 88% | Cl.C(C)OC(=N)C=1C=CC=C2CCCOC12 | InChI=1S/C12H15NO2.ClH/c1-2-14-12(13)10-7-3-5-9-6-4-8-15-11(9)10;/h3,5,7,13H,2,4,6,8H2,1H3;1H
